US04472193
Step 5: Preparation of 2,6-dichloro-1,7-naphthyridine
A mixture of 1.08 g (6 mmoles) of 6-chloro-1,7-naphthyridin-2-one and 10 ml of POCl3 were warmed at reflux for one hour to give a clear solution. Upon cooling, a precipitate formed and the mixture was poured cautiously over ice. CH2Cl2 was added and the mixture was neutralized with solid K2CO3. The CH2Cl2 layer was separated and the aqueous layer washed twice with CHCl3. The combined organic layers were washed with water, dried over K2CO3 and evaporated to give a white solid. The solid was recrystallized from hexane/acetone to give 1.14 g (95% of theoretical) of the desired product as short, white needles having a melting point of 213°-216° C. Analysis calculated for C8H4Cl2N2 : C, 48.27; H, 2.03; N, 14.08. Found: C, 48.80; H, 2.09; N, 14.55.

reactant | 6-chloro-1,7-naphthyridin-2-one | 6 mmoles, 1.08 g | ClC=1C=C2C=CC(NC2=CN1)=O | C8H5ClN2O
reactant | POCl3 | 10 ml | O=P(Cl)(Cl)Cl | Cl3OP
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2,6-dichloro-1,7-naphthyridine | ClC1=NC2=CN=C(C=C2C=C1)Cl | C8H4Cl2N2
